Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
fever, cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female with a history of breast cancer currently on
chemotherapy, most recent Taxol treatment on ___, presenting
with cough and fever. Patient reports that for 1 week she has 
had
cough. In past 24 hours, she developed fever and chills, noted a
fever at home to 101.4. Denies any chest pain or shortness of
breath, reports feeling of chest congestion. cough is productive
with greenish phlegm.  No runny nose. Has occasional headaches,
unchanged. no urinary or bowel complaints. no port
tenderness/redness. no rash.

She called because she has been having cough for the past few
days and it is worse today. Her husband also had developed cold
like symptoms at the same time but he is improving now. They 
were
both exposed to their granchildren recently.
On arrival to the ED, initial vitals were 99.0 111 141/76 22 97%
RA. Exam notable for clear lungs without respiratory distress.
Labs were notable for WBC 3.7 (ANC 2350), H/H 12.2/36.9, Plt 
161,
Na 139, K 4.0, BUN/Cr ___, and lactate 1.2. Blood and urine
cultures sent. CXR with concern for pneumonia. Patient was given
cefepime 2g IV, azithromycin 500mg IV, Tylenol 1g PO, and 1L NS.

Prior to transfer vitals were 98.8 91 107/64 18 96% RA.

REVIEW OF SYSTEMS: A complete 10-point review of systems was
performed and was negative unless otherwise noted in the HPI.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
___ presented for her one-year follow-up mammogram for left
breast calcifications at which time she also reported a 2 week
history of a left breast lump. On ___, bilateral
diagnostic mammogram showed prior calcifications on the left 
that
were not significantly changed along with a new developing
asymmetry in that area of calcifications. Unclear if right
mammogram was completed. Same-day left breast ultrasound at
11:00, 3 cm from the nipple showed an irregular, hypoechoic mass
measuring 1.5 x 1.6 cm.  Possible extension was also noted from
dominant mass measuring 4 x 1.6 x 3.4 cm.  Left axilla was 
within
normal limits.  Same-day left breast ultrasound-guided core
needle biopsy with percutaneous clip placement revealed
infiltrating ductal carcinoma, grade 2, ER positive (greater 
than
95%) disease, PR negative (0%) disease, HER-2 equivocal by IHC
(2+), FISH positive, ratio (12.2).

We therefore recommended TCHP regimen: Taxotere, Cytoxan,
Herceptin & Perjeta. S/p 4 cycles c/b grade ___ fatigue, nausea 
&
diarrhea (most with ___ cycle, none with ___. Taxotere dose
reduced from cycle 1. After ___ cycle reported sleeping close 
50%
if not more of the day for the majority of her 3 weeks. ECOG was
borderline 2. Since ___ has had an excellent clinical
response to therapy, with no detectable mass on exam after ___
cycle we decided to stop ___ chemo after 4 cycles and
proceed with surgery.. Given overall toxicity, clinical 
response,
___ age and prior history of other regimens such as AC and
TC having relatively equivalent outcomes in 4 vs 6 cycle,  We
explained to ___, there is no randomized data supporting
this plan for this regimen as the original study BCIRG 006 study
by ___ et al ___ in NEJM was for 6 cycles of TCHP. She
understood and agreed with plan as presented.

On ___, had partial mastectomy with SLNB revealing evidence
of RCB class 1 residual disease. Has a foci of 11mm, 5mm, 3mm 
and
1.5mm, invasive cellularity is 5%. We reviewed the option of
completing an additional 2 cycles of chemo. Weekly paclitaxel +
HP x6 was offered instead of TCHP due to difficulty with prior
cycles.

PAST MEDICAL HISTORY:
- Type II Diabetes
- Hypertension
- Hyperlipidmiea
- Hypothyroidism
- Osteopenia
- Squamous Cell Carcinoma
- Colonic Adenoma
- s/p laproscopic cholecystectomy
- s/p total abdominal hysterectomy
- s/p cataract surgery
- s/p tonsillectomy

 
Social History:
___
Family History:
Her mom (died at ___) and sister had uterine
cancer. Her brother had melanoma. Maternal grandmother and
paternal grandfather with colon cancer. No family history of
breast, ovarian or gastric cancer.
 
Physical Exam:
ON ADMISSION
=============
VS: ___ 2231 Temp: 98.8 PO BP: 105/69 R Lying HR: 92 RR: 20
O2 sat: 93% O2 delivery: RA 
GENERAL: Pleasant woman, in no distress, lying in bed
comfortably.
HEENT: Anicteric, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender, non-distended, normal bowel sounds, no
hepatomegaly, no splenomegaly.
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: A&Ox3, normal speech
SKIN: No significant rashes.
ACCESS: right port. no tenderness or redness at site

ON DISCHARGE
=============
VS: 98.2 ___ 18 96%RA
GENERAL: Chronically-ill appearing lady, in no distress lying in 
bed
comfortably.
HEENT: Anicteric, PERLL, Mucous membranes dry, oropharynx clear.
CARDIAC: Regular rate and rhythm, no murmurs, rubs or gallops.
LUNG: Appears in no respiratory distress, scattered wheezes and
crackles in righ base.
ABD: Non-distended, , normal bowel sounds, soft, non-tender, no
guarding, no palpable masses, no organomegaly.
EXT: Warm, well perfused. No lower extremity edema. No erythema
or tenderness.
NEURO: Alert and oriented, good attention and linear thought
process. CN II-XII intact. Strength full throughout. Sensation 
to
light touch intact.
SKIN: No significant rashes. 
 
Pertinent Results:
___ 07:50PM BLOOD WBC-3.7* RBC-3.89* Hgb-12.2 Hct-36.9 
MCV-95 MCH-31.4 MCHC-33.1 RDW-12.6 RDWSD-43.7 Plt ___
___ 05:33AM BLOOD WBC-3.7* RBC-3.45* Hgb-10.4* Hct-32.7* 
MCV-95 MCH-30.1 MCHC-31.8* RDW-12.5 RDWSD-43.2 Plt ___
___ 07:50PM BLOOD Glucose-148* UreaN-15 Creat-0.8 Na-139 
K-4.0 Cl-100 HCO3-23 AnGap-16
___ 05:33AM BLOOD Glucose-110* UreaN-12 Creat-0.6 Na-142 
K-4.0 Cl-105 HCO3-25 AnGap-12
___ 07:53PM BLOOD Lactate-1.2
 
Brief Hospital Course:
Mrs. ___ is ___ female with a history of breast 
cancer currently on weekly paclitaxel and trastuzumab presenting 
with fever and severe cough suggestive of viral bronchitis with 
bacterial pneumonia.

#Bronchitis
#Community Acquired Pneumonia
Patient presented initially with non-productive cough as her 
family went througha  could but then had significant fevers up 
to 101.7. CXR cannot exclude pneumonia. She defervesced after 
starting antibiotics but continued to feel and appear ill 
prompting additional 24h of observation. To complete at 5 day 
course of levofloxacin on ___. 

#Breast Cancer: Will be seen in clinic on day after discharge to 
evaluate whether OK to get next dose of chemotherapy. Underwent 
radiation mapping while in-house on ___.

#T2DM: Held metformin in favor of lispro ISS

#Hypothyroidism: Continued on levothyroxin.

TRANSITIONAL ISSUES
===================
1. Antibiotic course of levofloxacin through ___. 

35 minutes spent formulating and coordinating this patient's 
discharge plan
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 20 mg PO QPM 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Levothyroxine Sodium 125 mcg PO DAILY 
4. OLANZapine 10 mg PO PRN breakthrough nausea 
5. Ondansetron 8 mg PO Q8H:PRN nausea 
6. LORazepam 0.5 mg PO QHS:PRN anxiety/insomnia 
7. MetFORMIN XR (Glucophage XR) 500 mg PO QPM 
8. Fluticasone Propionate NASAL 2 SPRY NU DAILY 

 
Discharge Medications:
1.  Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN cough 
RX *codeine-guaifenesin 10 mg-100 mg/5 mL 5 mL by mouth every 
six (6) hours Refills:*0 
2.  Levofloxacin 750 mg PO Q24H 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*4 
Tablet Refills:*0 
3.  Atorvastatin 20 mg PO QPM  
4.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
5.  Hydrochlorothiazide 25 mg PO DAILY  
6.  Levothyroxine Sodium 125 mcg PO DAILY  
7.  LORazepam 0.5 mg PO QHS:PRN anxiety/insomnia  
8.  MetFORMIN XR (Glucophage XR) 500 mg PO QPM 
Do Not Crush  
9.  OLANZapine 10 mg PO PRN breakthrough nausea  
10.  Ondansetron 8 mg PO Q8H:PRN nausea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute viral bronchitis
Community Acquired Pneumonia
Breast cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted with a viral infection that was complicated by 
a pneumonia. ___ fortunately are not having issues with your 
breathing and stopped having fevers once we started antibiotics. 
___ will be able to continue to recover at home. Please continue 
your antibiotic through ___. 

It was pleasure to take care of ___.

Your ___ Team
 
Followup Instructions:
___